US05153210
A solution of 3-[4-(2-acetoxypropyl)benzoyl]propionic acid (0.8 g) in glacial acetic acid (10 ml) was treated with hydrazine hydrate (1 ml). The resulting solution was stirred and heated under reflux for 1 hr., cooled, diluted with water, and extracted into ethyl acetate. The organic layer was washed with NaHCO3 solution, dried (MgSO4) and evaporated to give 4,5-dihydro-6-[4-(2-acetoxypropyl)phenyl]-3(2H)-pyridazinone as a colourless oil.

reactant | 3-[4-(2-acetoxypropyl)benzoyl]propionic acid | 0.8 g | C(C)(=O)OC(CC1=CC=C(C(=O)CCC(=O)O)C=C1)C | C15H18O5
reactant | hydrazine hydrate | 1 ml | O.NN
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4,5-dihydro-6-[4-(2-acetoxypropyl)phenyl]-3(2H)-pyridazinone | C(C)(=O)OC(CC1=CC=C(C=C1)C=1CCC(NN1)=O)C | C15H18N2O3
